US05972978
To a stirred solution of 2-naphthyl acrylic acid (5.0 g, 25.0 mmol) in dry tetrahydrofuran (100 ml) and N,N-dimethylformamide (0.2 ml) was added dropwise at 0° C. oxalyl chloride (4.8 g, 38.0 mmol). The mixture was stirred for 1 h at room temperature and the solvent was evaporated in vacuo affording crude acid chloride. To a solution of tert-butyl carbazate (6.7 g, 50.0 mmol) in dry tetrahydrofuran (80 ml) was added dropwise a solution of the acid chloride in dry tetrahydrofuran (50 ml) at 0° C. The resulting reaction mixture was stirred for 17 h at room temperature and the solvent was evaporated in vacuo. To the residue was added water (200 ml) and ethyl acetate (200 ml) and the phases were separated. The organic phase was washed with 0.1 N sodium hydroxide (2×100 ml), dried (MgSO4), filtered and evaporated in vacuo. The solid residue was suspended in heptane (50 ml), filtered off and dried in vacuo at 50° C. which afforded 4.7 g (59%) of N-(3-naphthalen-2-yl-acryloyl)hydrazine carboxylic acid tert butyl ester as a solid.

reactant | 2-naphthyl acrylic acid | 25.0 mmol, 5.0 g | C1=C(C=CC2=CC=CC=C12)C(C(=O)O)=C | C13H10O2
reactant | oxalyl chloride | 38.0 mmol, 4.8 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | tert-butyl carbazate | 50.0 mmol, 6.7 g | C(NN)(=O)OC(C)(C)C | C5H12N2O2
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | N,N-dimethylformamide | 0.2 ml | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | N-(3-naphthalen-2-yl-acryloyl)hydrazine carboxylic acid tert butyl ester | 4.7 g, 59% | C(C)(C)(C)OC(=O)N(N)C(C=CC1=CC2=CC=CC=C2C=C1)=O | C18H20N2O3
